* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : FS_TSPC_DET_copy                             *
* Netlisted  : Mon Apr 13 15:26:45 2026                     *
* PVS Version: 24.10-p035 Thu Aug 22 18:07:17 PDT 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_776108405310                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_776108405310 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_776108405310

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_776108405311                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_776108405311 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_776108405311

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_776108405312                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_776108405312 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_776108405312

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_776108405313                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_776108405313 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_776108405313

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_3_CDNS_776108405310                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_3_CDNS_776108405310 S_source_0 D_drain_1 B_botTap 4
** N=4 EP=4 FDC=1
M0 D_drain_1 4 S_source_0 B_botTap g45n1svt L=4.5e-08 W=3e-07 AD=4.2e-14 AS=4.2e-14 PD=8.8e-07 PS=8.8e-07 fw=3e-07 sa=1.4e-07 sb=1.4e-07 sca=3.45234 scb=0.000105824 scc=3.48932e-09 $X=0 $Y=0 $dt=0
.ends nmos1v_3_CDNS_776108405310

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_3_CDNS_776108405311                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_3_CDNS_776108405311 S_source_0 D_drain_1 B_topTap 4 5
** N=5 EP=5 FDC=1
M0 D_drain_1 4 S_source_0 B_topTap g45p1svt L=4.5e-08 W=6e-07 AD=8.4e-14 AS=8.4e-14 PD=1.48e-06 PS=1.48e-06 fw=6e-07 sa=1.4e-07 sb=1.4e-07 sca=69.3272 scb=0.0652205 scc=0.00809762 $X=0 $Y=0 $dt=1
.ends pmos1v_3_CDNS_776108405311

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: FS_TSPC_DET_copy                                *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt FS_TSPC_DET_copy CLK D Q gnd vdd
** N=26 EP=5 FDC=36
X0 1 M1_PO_CDNS_776108405310 $T=7510 27650 0 0 $X=7410 $Y=27530
X1 CLK M1_PO_CDNS_776108405310 $T=11560 27670 0 0 $X=11460 $Y=27550
X2 3 M1_PO_CDNS_776108405310 $T=13390 7690 0 0 $X=13290 $Y=7570
X3 4 M1_PO_CDNS_776108405310 $T=13420 28380 0 0 $X=13320 $Y=28260
X4 CLK M1_PO_CDNS_776108405310 $T=13430 27700 0 0 $X=13330 $Y=27580
X5 5 M1_PO_CDNS_776108405310 $T=21570 26880 0 0 $X=21470 $Y=26760
X6 CLK M1_PO_CDNS_776108405310 $T=21590 7730 0 0 $X=21490 $Y=7610
X7 6 M1_PO_CDNS_776108405310 $T=21610 27670 0 0 $X=21510 $Y=27550
X8 5 M1_PO_CDNS_776108405310 $T=23480 25650 0 0 $X=23380 $Y=25530
X9 CLK M1_PO_CDNS_776108405310 $T=23580 7740 0 0 $X=23480 $Y=7620
X10 5 M1_PO_CDNS_776108405310 $T=25500 25710 0 0 $X=25400 $Y=25590
X11 7 M1_PO_CDNS_776108405310 $T=27520 25700 0 0 $X=27420 $Y=25580
X12 6 M1_PO_CDNS_776108405310 $T=31560 8800 0 0 $X=31460 $Y=8680
X13 CLK M1_PO_CDNS_776108405310 $T=31620 26670 0 0 $X=31520 $Y=26550
X14 CLK M1_PO_CDNS_776108405310 $T=33450 26670 0 0 $X=33350 $Y=26550
X15 6 M1_PO_CDNS_776108405310 $T=35670 8790 0 0 $X=35570 $Y=8670
X16 8 M1_PO_CDNS_776108405310 $T=37640 8760 0 0 $X=37540 $Y=8640
X17 CLK M2_M1_CDNS_776108405311 $T=2740 8000 0 0 $X=2660 $Y=7750
X18 3 M2_M1_CDNS_776108405311 $T=5380 26820 0 0 $X=5300 $Y=26570
X19 CLK M2_M1_CDNS_776108405311 $T=9350 13660 0 0 $X=9270 $Y=13410
X20 4 M2_M1_CDNS_776108405311 $T=9690 26080 0 0 $X=9610 $Y=25830
X21 CLK M2_M1_CDNS_776108405311 $T=15280 25830 0 0 $X=15200 $Y=25580
X22 D M2_M1_CDNS_776108405311 $T=15360 19190 0 0 $X=15280 $Y=18940
X23 CLK M2_M1_CDNS_776108405311 $T=25510 23540 0 0 $X=25430 $Y=23290
X24 6 M2_M1_CDNS_776108405311 $T=29410 8770 0 0 $X=29330 $Y=8520
X25 1 M2_M1_CDNS_776108405311 $T=31550 21080 0 0 $X=31470 $Y=20830
X26 6 M2_M1_CDNS_776108405311 $T=35550 27770 0 0 $X=35470 $Y=27520
X27 CLK M1_PO_CDNS_776108405312 $T=2740 8000 0 0 $X=2640 $Y=7750
X28 3 M1_PO_CDNS_776108405312 $T=5380 26820 0 0 $X=5280 $Y=26570
X29 CLK M1_PO_CDNS_776108405312 $T=9350 13660 0 0 $X=9250 $Y=13410
X30 4 M1_PO_CDNS_776108405312 $T=9690 26080 0 0 $X=9590 $Y=25830
X31 CLK M1_PO_CDNS_776108405312 $T=15280 25830 0 0 $X=15180 $Y=25580
X32 D M1_PO_CDNS_776108405312 $T=15360 19190 0 0 $X=15260 $Y=18940
X33 CLK M1_PO_CDNS_776108405312 $T=25510 23540 0 0 $X=25410 $Y=23290
X34 6 M1_PO_CDNS_776108405312 $T=29410 8770 0 0 $X=29310 $Y=8520
X35 1 M1_PO_CDNS_776108405312 $T=31550 21080 0 0 $X=31450 $Y=20830
X36 6 M1_PO_CDNS_776108405312 $T=35550 27770 0 0 $X=35450 $Y=27520
X37 1 M2_M1_CDNS_776108405313 $T=9440 21680 0 0 $X=9360 $Y=21550
X38 3 M2_M1_CDNS_776108405313 $T=9710 26860 0 0 $X=9630 $Y=26730
X39 4 M2_M1_CDNS_776108405313 $T=13380 26070 0 0 $X=13300 $Y=25940
X40 6 M2_M1_CDNS_776108405313 $T=24210 8950 0 0 $X=24130 $Y=8820
X41 6 M2_M1_CDNS_776108405313 $T=25520 27810 0 0 $X=25440 $Y=27680
X42 CLK M2_M1_CDNS_776108405313 $T=31600 23530 0 0 $X=31520 $Y=23400
X43 10 11 gnd CLK nmos1v_3_CDNS_776108405310 $T=4510 6200 1 180 $X=4000 $Y=5640
X44 gnd 10 gnd 1 nmos1v_3_CDNS_776108405310 $T=6510 6200 1 180 $X=6000 $Y=5640
X45 gnd 1 gnd 4 nmos1v_3_CDNS_776108405310 $T=8420 6200 0 0 $X=8000 $Y=5640
X46 13 3 gnd CLK nmos1v_3_CDNS_776108405310 $T=10510 6200 1 180 $X=10000 $Y=5640
X47 gnd 13 gnd 4 nmos1v_3_CDNS_776108405310 $T=12510 6200 1 180 $X=12000 $Y=5640
X48 14 4 gnd 3 nmos1v_3_CDNS_776108405310 $T=14510 6200 1 180 $X=14000 $Y=5640
X49 gnd 14 gnd D nmos1v_3_CDNS_776108405310 $T=16510 6200 1 180 $X=16000 $Y=5640
X50 gnd 15 gnd D nmos1v_3_CDNS_776108405310 $T=18420 6200 0 0 $X=18000 $Y=5640
X51 15 5 gnd CLK nmos1v_3_CDNS_776108405310 $T=20420 6200 0 0 $X=20000 $Y=5640
X52 gnd 6 gnd 5 nmos1v_3_CDNS_776108405310 $T=22420 6200 0 0 $X=22000 $Y=5640
X53 gnd 6 gnd CLK nmos1v_3_CDNS_776108405310 $T=24510 6200 1 180 $X=24000 $Y=5640
X54 gnd 7 gnd 5 nmos1v_3_CDNS_776108405310 $T=26420 6200 0 0 $X=26000 $Y=5640
X55 gnd 16 gnd 7 nmos1v_3_CDNS_776108405310 $T=28420 6200 0 0 $X=28000 $Y=5640
X56 16 17 gnd 6 nmos1v_3_CDNS_776108405310 $T=30420 6200 0 0 $X=30000 $Y=5640
X57 18 8 gnd 1 nmos1v_3_CDNS_776108405310 $T=32510 6200 1 180 $X=32000 $Y=5640
X58 gnd 18 gnd CLK nmos1v_3_CDNS_776108405310 $T=34510 6200 1 180 $X=34000 $Y=5640
X59 gnd 8 gnd 6 nmos1v_3_CDNS_776108405310 $T=36420 6200 0 0 $X=36000 $Y=5640
X60 gnd Q gnd 8 nmos1v_3_CDNS_776108405310 $T=38420 6200 0 0 $X=38000 $Y=5640
X61 20 11 vdd 3 gnd pmos1v_3_CDNS_776108405311 $T=4510 28600 1 180 $X=4000 $Y=28400
X62 vdd 20 vdd 1 gnd pmos1v_3_CDNS_776108405311 $T=6510 28600 1 180 $X=6000 $Y=28400
X63 vdd 1 vdd 4 gnd pmos1v_3_CDNS_776108405311 $T=8420 28590 0 0 $X=8000 $Y=28390
X64 vdd 3 vdd CLK gnd pmos1v_3_CDNS_776108405311 $T=10420 28600 0 0 $X=10000 $Y=28400
X65 vdd 3 vdd 4 gnd pmos1v_3_CDNS_776108405311 $T=12510 28600 1 180 $X=12000 $Y=28400
X66 22 4 vdd CLK gnd pmos1v_3_CDNS_776108405311 $T=14510 28600 1 180 $X=14000 $Y=28400
X67 22 vdd vdd D gnd pmos1v_3_CDNS_776108405311 $T=16420 28600 0 0 $X=16000 $Y=28400
X68 23 vdd vdd D gnd pmos1v_3_CDNS_776108405311 $T=18510 28600 1 180 $X=18000 $Y=28400
X69 23 5 vdd 6 gnd pmos1v_3_CDNS_776108405311 $T=20420 28600 0 0 $X=20000 $Y=28400
X70 vdd 24 vdd 5 gnd pmos1v_3_CDNS_776108405311 $T=22420 28600 0 0 $X=22000 $Y=28400
X71 24 6 vdd CLK gnd pmos1v_3_CDNS_776108405311 $T=24420 28600 0 0 $X=24000 $Y=28400
X72 vdd 7 vdd 5 gnd pmos1v_3_CDNS_776108405311 $T=26420 28600 0 0 $X=26000 $Y=28400
X73 vdd 25 vdd 7 gnd pmos1v_3_CDNS_776108405311 $T=28420 28600 0 0 $X=28000 $Y=28400
X74 25 17 vdd CLK gnd pmos1v_3_CDNS_776108405311 $T=30420 28600 0 0 $X=30000 $Y=28400
X75 vdd 26 vdd 1 gnd pmos1v_3_CDNS_776108405311 $T=32420 28600 0 0 $X=32000 $Y=28400
X76 vdd 26 vdd CLK gnd pmos1v_3_CDNS_776108405311 $T=34510 28600 1 180 $X=34000 $Y=28400
X77 26 8 vdd 6 gnd pmos1v_3_CDNS_776108405311 $T=36420 28600 0 0 $X=36000 $Y=28400
X78 vdd Q vdd 8 gnd pmos1v_3_CDNS_776108405311 $T=38420 28600 0 0 $X=38000 $Y=28400
.ends FS_TSPC_DET_copy
